US05807889
6-Acetylamino-1-[N-(4-cyclohexylbutan-1-yl)-N-methylaminomethyl]indan, sesquioxalate 13a (method d)
A mixture of 6-Acetylamino-1-(N-methylaminomethyl)indan (1.5 g), 4-cyclohexylbutan-1-ol mesylate (2.5 g), potassium carbonate (1.4 g), and a crystal of potassium iodide in MIBK (80 ml) were refluxed for 5 h. After cooling inorganic salts were filtered off and the solvent evaporated in vacuo. The remaining oil was subjected to column chromatography on SiO2 (eluted with ethyl acetate:heptane:triethylamine 80:20:4). The free base of the title compound was isolated as an oil. The sesquioxalate of 13a crystallized from acetone. Yield 1.6 g Mp: 145°-155° C.

reactant | 6-Acetylamino-1-(N-methylaminomethyl)indan | 1.5 g | C(C)(=O)NC1=CC=C2CCC(C2=C1)CNC | C13H18N2O
reactant | 4-cyclohexylbutan-1-ol mesylate | 2.5 g | S(C)(=O)(=O)OCCCCC1CCCCC1 | C11H22O3S
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | MIBK | 80 ml | CC(C)CC(=O)C | C6H12O
product | 6-Acetylamino-1-[N-(4-cyclohexylbutan-1-yl)-N-methylaminomethyl]indan | C(C)(=O)NC1=CC=C2CCC(C2=C1)CN(C)CCCCC1CCCCC1 | C23H36N2O
